US05608056
To a solution of potassium t-butoxide (2.32 g) in N,N-dimethylformamide (25 ml) was added dropwise thioacetic acid (1.48 ml) with stirring at -10°~-5° C. and the mixture was stirred at -5°~0° C. for 10 minutes. To a solution of (2R,4R)-1-allyloxycarbonyl-2-[2-(1-methylimidazol-2-yl)ethyl]-4-methanesulfonyloxypyrrolidine (5.69 g) in N,N-dimethylformamide (55 ml) was added the mixture obtained above with stirring at ambient temperature. The mixture was stirred at 80°-90° C. for 3 hours. The reaction mixture was poured into ice-water (100 ml) and extracted three times with ethyl acetate (100 ml). The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo, the resulting residue was chromatographed on silica gel (150 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-[2-(1-methylimidazol-2-yl)ethyl]pyrrolidine (3.20 g).

reactant | potassium t-butoxide | 2.32 g | CC(C)([O-])C.[K+]
reactant | thioacetic acid | 1.48 ml | C(C)(=S)O | C2H4OS
reactant | (2R,4R)-1-allyloxycarbonyl-2-[2-(1-methylimidazol-2-yl)ethyl]-4-methanesulfonyloxypyrrolidine | 5.69 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCC=1N(C=CN1)C | C15H23N3O5S
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
product | (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-[2-(1-methylimidazol-2-yl)ethyl]pyrrolidine | 3.20 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CCC=1N(C=CN1)C | C16H23N3O3S
